US08710226B2
Step 4: Preparation of Naltrexone Hydrochloride
70 kg Naltrexone base is taken in 210 Lit DM water and pH was adjusted to ˜2.0 with Conc.HCl and heated to 70-75° C. to get clear solution, filtered to make particle free and slowly cooled to 2-5° C. in 6-8 hrs period, filtered and then dried. The base was generated from filtrate by treatment with sodium hydroxide and converted to HCl salt by repeating the above mentioned process. Yield: 59.8 kg

reactant | Naltrexone base | 70 kg | C1CC1CN2CC[C@]34C5C(=O)CC[C@]3([C@H]2CC6=C4C(=C(C=C6)O)O5)O | C20H23NO4
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | Naltrexone Hydrochloride | C1=CC(=C2C3=C1C[C@@H]4[C@]5([C@]3(CCN4CC6CC6)[C@@H](O2)C(=O)CC5)O)O.Cl | InChI=1S/C20H23NO4.ClH/c22-13-4-3-12-9-15-20(24)6-5-14(23)18-19(20,16(12)17(13)25-18)7-8-21(15)10-11-1-2-11;/h3-4,11,15,18,22,24H,1-2,5-10H2;1H/t15-,18+,19+,20-;/m1./s1
